US07323475B2
1-Chloro-4-hydroxy-7-isopropoxy-isoquinoline-3-carboxylic acid (2-dimethylamino-ethyl)-amide
Synthesized from 1-chloro-4-hydroxy-7-isopropoxy-isoquinoline-3-carboxylic acid butyl ester (can be obtained according to U.S. Pat. No. 6,093,730, October 1998, Weidmann et al.) and N,N-dimethyl-ethane-1,2-diamine in analogy to example B-4, followed by deprotection in analogy to example B-1 f); MS-(+)-ion: M+1=352.1.

reactant | 1-chloro-4-hydroxy-7-isopropoxy-isoquinoline-3-carboxylic acid butyl ester | C(CCC)OC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC(C)C)Cl | C17H20ClNO4
reactant | N,N-dimethyl-ethane-1,2-diamine | CN(CCN)C | C4H12N2
product | 1-Chloro-4-hydroxy-7-isopropoxy-isoquinoline-3-carboxylic acid (2-dimethylamino-ethyl)-amide | CN(CCNC(=O)C=1N=C(C2=CC(=CC=C2C1O)OC(C)C)Cl)C | C17H22ClN3O3
